US07402608B2
A solution of trans 4-methylcyclohexane carboxylic acid (56 mg, 0.399 mmol, 1.2 eq)in 1,2-dichloroethane (1 ml) at 0°, under N2, was treated with oxalyl chloride (2.0M solution in CH2C12)(231 μl, 0.46 mmol, 1.4 eq), followed by dimethylformamide (8 μl, 7 mg, 0.1 mmol, 30 mol %). After 1 h the reaction was treated with a solution of 3-[1-(4-Methoxy-benzyl)-2-oxo-piperidin-4-ylamino]-5-(1-methyl-hexa-1,3,5-trienyl)-thiophene-2-carboxylic acid methyl ester (150 mg, 0.33 mmol) in DCE (2 ml). The reaction was then placed in abth at 90° and left at reflux overnight for 21 h. The reaction was stripped-off solvent and the residue (212 mg) was purified by bond elute chromatography using (Hexane:CH2Cl2:EtOAc=1:1:1) as eluent to give 3-[[1-(4-Methoxy-benzyl)-2-oxo-piperidin-4-yl]-(4-methyl-cyclohexanecarbonyl)-amino]-5-(1-methyl-hexa-1,3,5-trienyl)-thiophene-2-carboxylic acid methyl ester (21 mg, 11%) as a yellow foam; (300 MHz, CDCl3)0.55-0.73 (m, 1H), 0.77 (d, J=5.4 Hz, 3H), 1.26-1.30 (m, 12H), 1.94-2.12 (m, 1H), 2.14-2.19 (m, 1H), 2.40 (dd, J=9.0 Hz, J=12.0 Hz, 1H), 2.64-2.70 and 2.80 and 2.84 (m, 1H), 3.10-3.15 (m, 3H), 3.79-3.82 (m, 1H), 3.78 (s, 3H), 3.83 and 3.87 (s, 3H), 4.32 (t, J=12.0 Hz, 1H), 4.62 (dd, J=5.7 Hz, J=10.8 Hz, 1H), 4.50-5.0 (m, 1H), 6.79-6.83 (m, 2H), 6.99-7.14 (m, 2H), 7.26-7.48 (m, 3H), 7.61-7.65 (m, 2H).

reactant | trans 4-methylcyclohexane carboxylic acid | 0.399 mmol, 56 mg, 1.2 eq | C[C@@H]1CC[C@H](CC1)C(=O)O | C8H14O2
reactant | oxalyl chloride | 0.46 mmol, 2.0M, 231 μl, 1.4 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.1 mmol, 8 μl, 7 mg | CN(C=O)C | C3H7NO
reactant | 3-[1-(4-Methoxy-benzyl)-2-oxo-piperidin-4-ylamino]-5-(1-methyl-hexa-1,3,5-trienyl)-thiophene-2-carboxylic acid methyl ester | 0.33 mmol, 150 mg | COC(=O)C=1SC(=CC1NC1CC(N(CC1)CC1=CC=C(C=C1)OC)=O)C(=CC=CC=C)C | C26H30N2O4S
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
solvent | DCE | 2 ml | ClCCCl | C2H4Cl2
product | 3-[[1-(4-Methoxy-benzyl)-2-oxo-piperidin-4-yl]-(4-methyl-cyclohexanecarbonyl)-amino]-5-(1-methyl-hexa-1,3,5-trienyl)-thiophene-2-carboxylic acid methyl ester | 21 mg, 11% | COC(=O)C=1SC(=CC1N(C(=O)C1CCC(CC1)C)C1CC(N(CC1)CC1=CC=C(C=C1)OC)=O)C(=CC=CC=C)C | C34H42N2O5S
